US07429605B2
Preparation of 3-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-5-(4-trifluoromethoxy-phenyl)-pyridine
A solution of 60 mg (0.26 mmol) 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)phenol in 4.0 ml N,N-dimethylformamide was treated at 0° C. with 10 mg (0.26 mmol) of 60% sodium hydride and stirred at 0° C. for 30 min. Then 80 mg (0.26 mmol) 3-Chloromethyl-5-(4-trifluoromethoxy-phenyl)-pyridine were added and stirred continued at r.t. over night. After addition of 8 ml water, the precipitate was isolated, washed thoroughly with water, n-heptane and diisopropylether. The residue was dried at 40° C. to give 91 mg (72%) of the title compound as ochre powder.

reactant | 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)phenol | 0.26 mmol, 60 mg | CC=1C=C(C=CC1CCCCN1N=NC=C1)O | C13H17N3O
reactant | sodium hydride | 0.26 mmol, 10 mg | [H-].[Na+]
reactant | 3-Chloromethyl-5-(4-trifluoromethoxy-phenyl)-pyridine | 0.26 mmol, 80 mg | ClCC=1C=NC=C(C1)C1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO
reactant | water | 8 ml | O | H2O
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 3-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-5-(4-trifluoromethoxy-phenyl)-pyridine | 91 mg, 72% | CC=1C=C(OCC=2C=NC=C(C2)C2=CC=C(C=C2)OC(F)(F)F)C=CC1CCCCN1N=NC=C1 | C26H25F3N4O2
